* C:\powertroll-pcb\Spice\AC_FET_DRIVER.asc
V1 N001 N005 SINE(0 120 60)
R1 N001 N002 8
M1 N002 N004 0 0 R6020PNJ
V2 N003 0 PULSE(0 120 0 10ns 10ns 125us 250us)
R2 N004 N003 10
M2 N005 N004 0 0 R6020PNJ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\MCD\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 16ms
.backanno
.end
